US07323460B2
Step 3: 1-(4-Fluoro-2-iodophenyl)methanamine
Triphenylphosphine (13.2 g, 50.4 mmol) was added to 1-(azidomethyl)-4-fluoro-2-iodobenzene (9.31 g, 33.6 mmol) dissolved in dry DMF (20 mL) at 0° C. After one hour water (3.03 mL, 168 mmol) was added and the solution was heated to 55° C. for one hour. The reaction was cooled and the solution was concentrated to about 10 mL in vacuo. The residue was purified in two runs by preparative HPLC (Gilson semi preparative HPLC system using a Waters Delta pak column (3(10×40 mm I.D.) cartridges, C18, 15 μM pore size) eluting with 95-5% water (0.025% TFA)/acetonitrile (0.025% TFA) at 45 mL/min) to give the desired product in 75% purity. Using a Waters OASIS MCX Cartridge (6 g, 35 cc syringe), half of the 75% pure product dissolved in methanol was loaded onto the column pre-equilibrated with a 1:1 solution of water and methanol. The column was washed once with the 1:1 solution and then washed several times with methanol to remove all UV active material. The amine was eluted by washing the column with methanol saturated with ammonia gas. This procedure was repeated on the remaining 75% pure product. The two batches were combined and concentrated in vacuo to give the free base of the desired product as a yellow oil.

reactant | Triphenylphosphine | 50.4 mmol, 13.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(azidomethyl)-4-fluoro-2-iodobenzene | 33.6 mmol, 9.31 g | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)I | C7H5FIN3
reactant | water | 168 mmol, 3.03 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-Fluoro-2-iodophenyl)methanamine | FC1=CC(=C(C=C1)CN)I | C7H7FIN
